US05728835
1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine
1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride (800 mg, 2.61 mmol) was suspended in ether (20 ml). With cooling in an ice bath, saturated sodium carbonate aqueous solution (5 ml) was added dropwise to the suspension. The reaction solution was extracted with ether and washed with saturated brine, and the resulting organic layer was dried on anhydrous sodium carbonate. Thereafter, the organic layer was filtered through silica gel (5 g), the solvent was removed by evaporation and then the resulting residue was purified by subjecting it to a silica gel column chromatography (ether) to obtain 650 mg (92.3%) of the title compound in the form of light yellow solid.

reactant | 1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride | 2.61 mmol, 800 mg | Cl.ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O
reactant | sodium carbonate | 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine | 650 mg, 92.3% | ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H17ClFNO
